US04427589
8-Chloro-1-phenyl-3H-2-benzazepine hydrochloride
A mixture of 6 g (15 mmole) of 1-[4-chloro-2-benzoylphenyl]-3-phthalimidopropene, 0.9 g (18 mmole) of 85% hydrazine hydrate and 70 ml of 95% ethanol was refluxed for 2.5 hr. The insoluble precipitate formed was separated by filtration. The filtrate was acidified with ice cold dilute hydrochloric acid and extracted with ether. The aqueous layer was separated, made alkaline with dilute sodium hydroxide and extracted with methylene chloride. The methylene chloride solution was dried over anhydrous sodium sulfate, acidified with methanolic hydrogen chloride, diluted with isopropanol and concentrated at reduced pressure to a small volume. The crude product was collected by filtration to give tan prisms, mp 223°-225° C. dec.

reactant | 1-[4-chloro-2-benzoylphenyl]-3-phthalimidopropene | 15 mmole, 6 g | ClC1=CC(=C(C=C1)C=CCN1C(C=2C(C1=O)=CC=CC2)=O)C(C2=CC=CC=C2)=O | C24H16ClNO3
reactant | hydrazine hydrate | 18 mmole, 0.9 g | O.NN
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 8-Chloro-1-phenyl-3H-2-benzazepine hydrochloride | Cl.ClC1=CC2=C(C=CCN=C2C2=CC=CC=C2)C=C1 | InChI=1S/C16H12ClN.ClH/c17-14-9-8-12-7-4-10-18-16(15(12)11-14)13-5-2-1-3-6-13;/h1-9,11H,10H2;1H
